US05489602
A mixture of 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine (0.6 g), 2,4-thiazolidinedione (0.235 g), piperidine (0.066 ml) and ethanol (20 ml) was heated for 9 hours while refluxing. The reaction mixture was poured into water; the separating crystal, collected by filtration, was then recrystallized from ethanol-chloroform to yield 5-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]methylidene]-2,4-thiazolidinedione (0.232 g, 29%) as a yellow crystal.

reactant | 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine | 0.6 g | C(=O)C=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C18H16N2O3
reactant | 2,4-thiazolidinedione | 0.235 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.066 ml | N1CCCCC1 | C5H11N
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-pyridyl]methylidene]-2,4-thiazolidinedione | 0.232 g, 29% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=NC=C(C=C1)C=C1C(NC(S1)=O)=O | C21H17N3O4S
